US05489593
1-[5-Fluoro-6-methoxyindolyl-2-carbonyl]-4-[3-(1-methylethylamino)-2-pyridinyl]piperazine (III)
Following the general procedure of EXAMPLE 16A and making non-critical variations but starting with 5-fluoro-6-methoxyindole-2-carboxylic acid (PREPARATION 92, 0.30 g), 1-[3-(1-methylethylamino)-2-pyridinyl]piperazine (0.32 g) and 1-(ethyl)-3-dimethylaminopropyl) carbodiimide (0.33 g), the title compound is obtained, mp 193°-194°.

reactant | 5-fluoro-6-methoxyindole-2-carboxylic acid | 0.30 g | FC=1C=C2C=C(NC2=CC1OC)C(=O)O | C10H8FNO3
reactant | 1-[3-(1-methylethylamino)-2-pyridinyl]piperazine | 0.32 g | CC(C)NC=1C(=NC=CC1)N1CCNCC1 | C12H20N4
reactant | carbodiimide | 0.33 g | N=C=N | CH2N2
product | 1-[5-Fluoro-6-methoxyindolyl-2-carbonyl]-4-[3-(1-methylethylamino)-2-pyridinyl]piperazine | CC(C)NC1=C(N=CC=C1)N2CCN(CC2)C(=O)C3=CC4=CC(=C(C=C4N3)OC)F | C22H26FN5O2
